US06727264B1
N-(5-{1-[4-(3,4-DIFLUOROPHENOXY)BENZYL]-4-PIPERIDINYL}-2-METHYLPHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure AA and Scheme AJ using 4-(3,4-difluorophenoxy)benzaldehyde and 2-methyl-N-[2-methyl-5-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 479.2 (M+H)+.

reactant | 4-(3,4-difluorophenoxy)benzaldehyde | FC=1C=C(OC2=CC=C(C=O)C=C2)C=CC1F | C13H8F2O2
reactant | 2-methyl-N-[2-methyl-5-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=C(C=CC(=C1)C1CCNCC1)C)C | C16H24N2O
product | N-(5-{1-[4-(3,4-DIFLUOROPHENOXY)BENZYL]-4-PIPERIDINYL}-2-METHYLPHENYL)-2-METHYLPROPANAMIDE | FC=1C=C(OC2=CC=C(CN3CCC(CC3)C=3C=CC(=C(C3)NC(C(C)C)=O)C)C=C2)C=CC1F | C29H32F2N2O2
